US07572817B2
A solution of tert-butyl 3-{6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}-2-(diethoxyphosphoryl)propanoate (1.058 g, 2.31 mmol) in dry THF (4 mL) was added to a solution of sodium hydride (0.111 g, 60% in mineral oil, 2.77 mmol) in dry TBF (3 mL) at 0° C. and the mixture was stirred at 0° C. for 60 min. To this mixture a solution of 3-(1,1′-biphenyl-3-yl)propanal (0.582 g, 2.77 mmol) in dry TBF (3 mL) was added, and the reaction mixture was allowed to attain room temperature over 22 h. EtOAc was then added, and the organic phase was washed with saturated aqueous NH4Cl and water, dried (Na2SO4) and concentrated. Flash chromatography (toluene/EtOAc, 15:1) of the residue gave tert-butyl 5-(1,1′-biphenyl-3-yl)-2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)pent-2-enoate (1.105 g, 93%) as a mixture of E/Z-isomers.

reactant | tert-butyl 3-{6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}-2-(diethoxyphosphoryl)propanoate | 2.31 mmol, 1.058 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)CC(C(=O)OC(C)(C)C)P(=O)(OCC)OCC | C21H35N2O7P
reactant | sodium hydride | 2.77 mmol, 0.111 g | [H-].[Na+]
reactant | 3-(1,1′-biphenyl-3-yl)propanal | 2.77 mmol, 0.582 g | C1(=CC(=CC=C1)CCC=O)C1=CC=CC=C1 | C15H14O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-(1,1′-biphenyl-3-yl)-2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)pent-2-enoate | 1.105 g, 93% | C1(=CC(=CC=C1)CCC=C(C(=O)OC(C)(C)C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C32H38N2O4
